US08492378B2
4-chloro-2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine
A mixture of 2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine 7-oxide (1.17 g, 4.91 mmol) and phosphorus oxychloride (9.73 g) was heated under reflux for 2 hr. The reaction mixture was poured into ice water, and the mixture was neutralized with sodium hydroxide and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-0/1) and washed with hexane to give the title compound (0.71 g, yield 56%) as colorless crystals.

reactant | 2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine 7-oxide | 4.91 mmol, 1.17 g | C1(=CC=CC=C1)CCC1=CC=2C(=[N+](C=CC2)[O-])N1 | C15H14N2O
reactant | phosphorus oxychloride | 9.73 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-chloro-2-(2-phenylethyl)-1H-pyrrolo[2,3-b]pyridine | 0.71 g, yield 56% | ClC1=C2C(=NC=C1)NC(=C2)CCC2=CC=CC=C2 | C15H13ClN2
